US07812022B2
Step E: 3-[2-(Methylthio)-4-pyrimidinyl]-2-(3-nitrophenyl)pyrazolo[1,5-a]pyridine
To a 0° C. solution of 2-(methylthio)-4-[(3-nitrophenyl)ethynyl]pyrimidine (4.0 g, 14.7 mmol) and N-aminopyridinium iodide (6.53 g, 29.4 mmol) in DCM (150 mL) is added KOH (2.06 g, 36.8 mmol) in H2O (50 mL). The reaction is allowed to warm to rt and stirred for 16 h. The mixture is diluted with DCM and H2O. The organic layer is separated and the aqueous layer is extracted with DCM. The combined organic layers are dried over MgSO4, filtered and concentrated to give a dark solid. The residue is dissolved in DCM and MeOH is added until the product formed as a precipitate. The product is collected by filtration and dried to supply the title compound (2.02 g) as an off-white solid. 1H NMR (400 MHz, d6-DMSO): δ 11.36 (s, 1H), 8.62 (d, 1H, J=9.2), 8.54 (d, 1H, J=5.6), 7.94 (s, 1H), 7.82 (d, 1H, J=8.8), 7.54 (t, 1H, J=8.0), 7.46 (d, 1H, J=9.2), 7.16 (d, 1H, J=5.2), 2.59 (s, 3H).

reactant | 2-(methylthio)-4-[(3-nitrophenyl)ethynyl]pyrimidine | 14.7 mmol, 4.0 g | CSC1=NC=CC(=N1)C#CC1=CC(=CC=C1)[N+](=O)[O-] | C13H9N3O2S
reactant | N-aminopyridinium iodide | 29.4 mmol, 6.53 g | [I-].N[N+]1=CC=CC=C1
reactant | KOH | 36.8 mmol, 2.06 g | [OH-].[K+]
reactant | MeOH | CO | CH4O
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 50 mL | O | H2O
product | 3-[2-(Methylthio)-4-pyrimidinyl]-2-(3-nitrophenyl)pyrazolo[1,5-a]pyridine | CSC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C2=CC(=CC=C2)[N+](=O)[O-] | C18H13N5O2S
